US05891882
Methyl 7-amino-2-(3-thienyl)thieno[2,3-b]pyrazine-6-carboxylate
A solution of the methyl 7-amino-2-chloro-thieno[2,3-b]pyrazine-6-carboxylate prepared as described in Example 10C (0.190 g), thiophene-3-boronic acid (0.100 g), Pd(dppf)C12 (0.032 g) and triethylamine (0.22 mL) in degassed DMF was heated to 95° C. for 4 h, cooled, quenched in water and extracted with 1:1 Et2O/EtOAc (3×). The organics were washed 3× with water, brine, dried (Na2SO4), filtered and solvent evaporated to give 0.200 g (88%) of the title compound: 1H NMR (300 MHz, CDCl3) δ 3.95 (3H, s), 6.23 (2H, br s), 7.50 (1H, dd), 7.79 (1H, dd), 8.05 (1H, dd), 9.00 (1H, s).

reactant | methyl 7-amino-2-chloro-thieno[2,3-b]pyrazine-6-carboxylate | NC1=C(SC2=NC=C(N=C21)Cl)C(=O)OC | C8H6ClN3O2S
reactant | thiophene-3-boronic acid | 0.100 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | triethylamine | 0.22 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 7-amino-2-(3-thienyl)thieno[2,3-b]pyrazine-6-carboxylate | 0.200 g, 88% | NC1=C(SC2=NC=C(N=C21)C2=CSC=C2)C(=O)OC | C12H9N3O2S2
